2159-09-19 07:38:00 Physician Resident Progress Note
Chief Complaint: 63M with schizophrenia and severe COPD, tx from floor
   yesterday for worsening COPD flare, also now being tx for PNA.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2159-9-18**] 10:18 AM
 TRANSTHORACIC ECHO - At [**2159-9-18**] 02:18 PM
 NON-INVASIVE VENTILATION - STOP [**2159-9-18**] 08:00 PM
 NON-INVASIVE VENTILATION - START [**2159-9-19**] 01:00 AM
 NON-INVASIVE VENTILATION - STOP [**2159-9-19**] 02:15 AM
 NON-INVASIVE VENTILATION - START [**2159-9-19**] 03:45 AM
   started to decompensate on BiPap, gas marginally worse, became
   confused, combative, very poor air movement.
 INVASIVE VENTILATION - START [**2159-9-19**] 04:30 AM
 NON-INVASIVE VENTILATION - STOP [**2159-9-19**] 04:31 AM
 ARTERIAL LINE - START [**2159-9-19**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-9-18**] 03:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-9-18**] 12:01 PM
   Heparin Sodium (Prophylaxis) - [**2159-9-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 71 (65 - 92) bpm
   BP: 127/73(93) {127/73(93) - 127/73(93)} mmHg
   RR: 18 (12 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    470 mL
                                                                     38 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                     60 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                     70 mL
   Urine:
                                                                    965 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -495 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 200 (200 - 209) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.44/57/163/40/12
   Ve: 8.5 L/min
   PaO2 / FiO2: 543
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), S3, S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, stasis changes
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   281 K/uL
   14.4 g/dL
   119 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.8 mEq/L
   24 mg/dL
   98 mEq/L
   141 mEq/L
   45.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2159-9-18**]  12:24 PM
                             [**2159-9-19**]  02:30 AM
                             [**2159-9-19**]  03:04 AM
                             [**2159-9-19**]  06:35 AM
   WBC
   14.3
   Hct
   45.0
   Plt
   281
   Cr
   0.9
   TCO2
   43
   44
   40
   Glucose
   119
   Other labs: Ca++:8.6 mg/dL, Mg++:2.1 mg/dL
   Assessment and Plan
   1)[**Name (NI) 2098**] pt with severe COPD but has been worsening over past several
   weeks- unclear how far off from baselinen he is but based on tachypnea
   and ph clearly off baseline. Continue PO steroids for planned minimum
   of 2 week course, then taper.  Pt had acute respiratory decompensation
   last night while on BiPAP, gas showed interval worsening, pt more
   confused and combative. [**Month (only) 60**] have been tiring and accumulating C02 or
   may have mucous plugged, given how relatively low his resistance is
   today and the fact that he is making more sputum.
   -send sputum cultures
   -continue to treat with levaquin for full 5 day course for CAP
   -Continue MDIs
   -Step down to pressure support today, consider extubation to BiPap.  .
   2)EKG changes-Non specific no chest pain and enzymes negative. Started
   ASA, TTE showed no evidence of focal wall motion abnormalitites.
   3 )Psych/scizophernia-Continue zyprexa, liberal with anxiolytics to
   prevent worsening of respiratory  distress
   4)Glucose intolerance-Follow sugars given steroids
   ICU Care
   Nutrition:  NPO while intubated
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-9-19**] 04:00 AM
   Arterial Line - [**2159-9-19**] 06:00 AM
   Prophylaxis:
   DVT: Pneumoboots, Hep SC
   Stress ulcer: PPI, switched to lansoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until extubated

2159-09-20 08:01:00 Physician Resident Progress Note
Chief Complaint: 63M with schizophrenia and severe COPD tx to ICU for
   worsening respiratory distress, intubated overnight [**9-19**] for
   respiratory failure.
   24 Hour Events:
 EKG - At [**2159-9-20**] 04:00 AM
   Attempted vent wean overnight to PS, pt did not tolerate. ABG improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-9-18**] 03:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-9-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-20**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 51 (51 - 77) bpm
   BP: 120/66(85) {91/54(67) - 146/80(104)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                    404 mL
                                                                     91 mL
   PO:
             TF:
   IVF:
                                                                    254 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,122 mL
                                                                    195 mL
   Urine:
                                                                  1,122 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -718 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 450) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.47/53/73.[**Numeric Identifier 607**]/36/12
   Ve: 7.2 L/min
   PaO2 / FiO2: 243
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), S3, S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, stasis changes
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   260 K/uL
   14.0 g/dL
   95 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.0 mEq/L
   23 mg/dL
   99 mEq/L
   141 mEq/L
   43.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2159-9-18**]  12:24 PM
                             [**2159-9-19**]  02:30 AM
                             [**2159-9-19**]  03:04 AM
                             [**2159-9-19**]  06:35 AM
                             [**2159-9-19**]  03:18 PM
                             [**2159-9-20**]  03:36 AM
                             [**2159-9-20**]  03:48 AM
   WBC
   14.3
   13.6
   Hct
   45.0
   43.6
   Plt
   281
   260
   Cr
   0.9
   0.9
   TCO2
   43
   44
   40
   41
   40
   Glucose
   119
   95
   Other labs: Ca++:8.6 mg/dL, Mg++:2.1 mg/dL
   Assessment and Plan
   1)[**Name (NI) 2098**] pt with severe COPD but has been worsening over past several
   weeks- unclear how far off from baselinen he is but based on tachypnea
   and ph clearly off baseline. Continue PO steroids for planned minimum
   of 2 week course, then taper.  Pt had acute respiratory decompensation
   last night while on BiPAP, gas showed interval worsening, pt more
   confused and combative. [**Month (only) 60**] have been tiring and accumulating C02 or
   may have mucous plugged, given how relatively low his resistance is
   today and the fact that he is making more sputum.
   -send sputum cultures
   -continue to treat with levaquin for full 5 day course for CAP
   -Continue MDIs
   -Step down to pressure support today, consider extubation to BiPap.  .
   2)EKG changes-Non specific no chest pain and enzymes negative. Started
   ASA, TTE showed no evidence of focal wall motion abnormalitites.
   3 )Psych/scizophernia-Continue zyprexa, liberal with anxiolytics to
   prevent worsening of respiratory  distress
   4)Glucose intolerance-Follow sugars given steroids
   ICU Care
   Nutrition:  NPO while intubated
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-9-19**] 04:00 AM
   Arterial Line - [**2159-9-19**] 06:00 AM
   Prophylaxis:
   DVT: Pneumoboots, Hep SC
   Stress ulcer: PPI, switched to lansoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until extubated

2159-09-21 07:44:00 Physician Resident Progress Note
Chief Complaint: 63M with severe COPD and schizophrenia with
   exacerbation/pna.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2159-9-20**] 01:40 PM
 NON-INVASIVE VENTILATION - START [**2159-9-20**] 01:45 PM
 NON-INVASIVE VENTILATION - STOP [**2159-9-20**] 02:17 PM
 ARTERIAL LINE - STOP [**2159-9-20**] 06:18 PM
   Succssfully extubated yesterday.  Did well overnight.  BP low, low UOP,
   asymmptomatic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-9-18**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-9-20**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
m much better
  Reports breathing is
great!
   denies SOB. States cough better than yesterday. Able to tolerate PO.
   Flowsheet Data as of  [**2159-9-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 73 (55 - 86) bpm
   BP: 91/45(57) {91/44(57) - 153/113(122)} mmHg
   RR: 27 (14 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    444 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    200 mL
   Urine:
                                                                  1,130 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -686 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   Physical Examination
   General Appearance: Awake, alert sitting in chair
   Eyes / Conjunctiva: PERRL, anicteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition,
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: (Breath Sounds: Bronchial: ) Improved from prior
   to intubation, poor air movement, no wheezes, decreased at left base.
   Tachypneic, worse with speaking, unable to speak in full sentences.  In
   much less distress than prior to transfer to MICU
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, stasis changes
   Skin:  W+D, no rashes
   Neurologic: Alert, oriented, responds appropriately to questions.
   Labs / Radiology
   259 K/uL
   15.4 g/dL
   88 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   28 mg/dL
   102 mEq/L
   145 mEq/L
   47.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2159-9-19**]  02:30 AM
                             [**2159-9-19**]  03:04 AM
                             [**2159-9-19**]  06:35 AM
                             [**2159-9-19**]  03:18 PM
                             [**2159-9-20**]  03:36 AM
                             [**2159-9-20**]  03:48 AM
                             [**2159-9-20**]  12:05 PM
                             [**2159-9-20**]  01:11 PM
                             [**2159-9-20**]  02:28 PM
                             [**2159-9-21**]  03:26 AM
   WBC
   14.3
   13.6
   12.8
   Hct
   45.0
   43.6
   47.5
   Plt
   [**Telephone/Fax (3) 4341**]
   Cr
   0.9
   0.9
   0.9
   TCO2
   44
   40
   41
   40
   37
   40
   39
   Glucose
   119
   95
   88
   Other labs: Ca++:8.6 mg/dL, Mg++:2.1 mg/dL
   Sputum cx: negative
   Assessment and Plan
   63M with schizophrenia and severe COPD tx to ICU for worsening
   respiratory distress, intubated [**9-19**] for respiratory failure.
   1)[**Name (NI) 2098**] pt with severe COPD but has been worsening over past several
   weeks- unclear how far off from baselinen he is but based on tachypnea
   and ph clearly off baseline. Extubated successfully to bipap yesterday,
   on bipap for ~1/2 hour, has been stable o/n on 3L NC.
   -sputum cultures negative to date, continue to follow
   -treated for CAP, has RLL infiltrate on CXR this am, no fevers.  No
   need to broaden unless decompensates.  Currently [**5-12**].
   -Continue MDIs, increase advair to 500/50 per TORCH trial benefit.
   Trial of tiotropium with teaching, if unable to use, return to
   ipratropium nebs
   -Continue albuterol nebs
   -2 week steroid taper, step down to 40mg today, day [**5-21**], day 1 of
   taper, continue for 2-3 days prior to further taper.
   2)EKG changes-Non specific no chest pain and enzymes negative. Started
   ASA, TTE showed no evidence of focal wall motion abnormalitites.
   -continue asa
   3 )Psych/scizophernia-Continue zyprexa, liberal with anxiolytics to
   prevent worsening of respiratory  distress
   4)Glucose intolerance-Follow sugars given steroids
   ICU Care
   Nutrition:  Cardiac diabetic diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2159-9-19**] 04:00 AM
   Prophylaxis:
   DVT: Pneumoboots, Hep SC
   Stress ulcer: Not needed
   VAP:
   Comments:
   Communication:  Comments: Sister and brother
   [**Name (NI) 66**] status: Full code
   Disposition: Call out to floor today